US05051413
The starting material is manufactured as follows: Reaction of 2-methylene-pentanal with isocyanoacetic acid ethyl ester analogously to Example 1 yields 5-(penten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester. By hydrolysis of the 5-(penten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester in a manner analogous to that described in Example 15, 2-formylamino-3-hydroxy-4-propyl-4-pentenoic acid ethyl ester is obtained.Reaction of the 2-formylamino-3-hydroxy-4-propyl-4-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with trimethyl phosphite in a manner analogous to that described in Example 1 yields E-2-formylamino-4-propyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 2-methylene-pentanal | C=C(C=O)CCC | C6H10O
reactant | isocyanoacetic acid ethyl ester | C(C)OC(C[N+]#[C-])=O | C5H7NO2
product | 5-(penten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C(=C)CCC | C11H17NO3
